US07344702B2
Synthesis of 2-tert-butyl-4-fluoro-5-(4-tert-butylbenzyl) thio 3(2H)-pyridazinone
A round bottom flask is charged with 2-tert-butyl-4-chloro-5-(4-tert-butylbenzyl) thio 3(2H)-pyridazinone (100 mg, 0.27 mmol) and to it is added potassium fluoride (23.4 mg, 0.40 mmol) and 2 ml dimethyl sulfoxide. This is heated to 120° C. for 6 hours. The reaction mixture is then poured into water and extracted with ethyl acetate. This is washed with water and dried. Purification by flash chromatography (silica gel; ethyl acetate/hexanes) gave the above mentioned compound.

reactant | 2-tert-butyl-4-chloro-5-(4-tert-butylbenzyl) thio 3(2H)-pyridazinone | 0.27 mmol, 100 mg | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)C(C)(C)C | C19H25ClN2OS
reactant | potassium fluoride | 0.40 mmol, 23.4 mg | [F-].[K+]
reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-tert-butyl-4-fluoro-5-(4-tert-butylbenzyl) thio 3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)F)SCC1=CC=C(C=C1)C(C)(C)C | C19H25FN2OS
